US08030500B2
4-Fluoro-1-(4-fluoro-3-(pyrimidin-5-yl)phenyl)-1-(2-methoxypyridin-4-yl)-1H-isoindol-3-amine
1-(3-Bromo-4-fluorophenyl)-4-fluoro-1-(2-methoxypyridin-4-yl)-1H-isoindol-3-amine (98.9 mg, 0.23 mmol), 5-pyrimidinylboronic acid (31.3 mg, 0.25 mmol), 1,1′-bis (diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (9.39 mg, 0.01 mmol), 2 M aqueous potassium carbonate (0.345 mL, 0.69 mmol) and DMF (2.0 mL) were put in a microwave vial and irradiated in a microwave oven at 110° C. for 20 min. Additional 5-pyrimidinylboronic acid (18.51 mg, 0.15 mmol) and [1,1′-bis (diphenylphosphino)ferrocene]palladium(II) chloride (9.39 mg, 0.01 mmol) were added and the resulting mixture was irradiated at 110° C. for 40 min. The resulting product mixture was filtered and purified by preparative-HPLC to give the title compound (38.9 mg, 39.4% yield).

reactant | 1-(3-Bromo-4-fluorophenyl)-4-fluoro-1-(2-methoxypyridin-4-yl)-1H-isoindol-3-amine | 0.23 mmol, 98.9 mg | BrC=1C=C(C=CC1F)C1(N=C(C2=C(C=CC=C12)F)N)C1=CC(=NC=C1)OC | C20H14BrF2N3O
reactant | 5-pyrimidinylboronic acid | 0.25 mmol, 31.3 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | potassium carbonate | 0.69 mmol, 2 M, 0.345 mL | C([O-])([O-])=O.[K+].[K+]
reactant | 5-pyrimidinylboronic acid | 0.15 mmol, 18.51 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
catalyst | [1,1′-bis (diphenylphosphino)ferrocene]palladium(II) chloride | 0.01 mmol, 9.39 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 4-Fluoro-1-(4-fluoro-3-(pyrimidin-5-yl)phenyl)-1-(2-methoxypyridin-4-yl)-1H-isoindol-3-amine | 38.9 mg, 39.4% yield | FC1=C2C(=NC(C2=CC=C1)(C1=CC(=NC=C1)OC)C1=CC(=C(C=C1)F)C=1C=NC=NC1)N | C24H17F2N5O
